US04268510
A mixture of 5-hydroxy-2-nitrobenzaldehyde (4 g.) and acetic anhydride (10 ml.) was heated on a steam bath for 1 hour, then poured into water (100 ml.) and extracted with diethyl ether (3×50 ml.). The extracts were combined and dried, and the solvent was evaporated. The residue of 5-acetoxy-2-nitrobenzaldehyde was dissolved in absolute ethanol (100 ml.), and stirred and ice-cooled while sodium borohydride (1.5 g.) was added in portions. The reaction mixture was stirred at room temperature for 1 hour, then water (100 ml.) was added, and the mixture was extracted with ether (3×70 ml.). The extracts were combined and dried, and the solvent was evaporated to give 5-acetoxy-2-nitrobenzyl alcohol, which was hydrogenated by the general process described in the latter part of Example 13(a) to give the required starting material.

reactant | 5-hydroxy-2-nitrobenzaldehyde | 4 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 ml | O | H2O
product | 5-acetoxy-2-nitrobenzyl alcohol | C(C)(=O)OC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C9H9NO5
